US07384906B2
Within a period of 90 min., a solution of triethyl 2-phosphonopropionate (238 g, 1.00 mol) in dimethoxyethane (DME, 150 ml) was added dropwise with stirring under an atmosphere of N2 to a solution of NaH (43.6 g, 1.00 mol) in DME (600 ml). The mixture was then heated to reflux, and after 15 min. at reflux temp., isobutyric aldehyde (72.1 g, 1.00 mol) was added dropwise. After a further 30 min. stirring at reflux, the mixture was poured into ice/water (1:1, 1 L). AcOH (60 ml) was added, and the product was extracted with Et2O (2×200 ml). The combined organic extracts were washed with water (400 ml) and brine (100 ml), dried (Na2SO4), and concentrated in a rotary evaporator. The resulting residue was distilled to provide at 86-75° C./27 mbar 117 g (75%) of 2,4-dimethylpent-2-enoic acid ethyl ester.

reactant | triethyl 2-phosphonopropionate | 1.00 mol, 238 g | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | NaH | 1.00 mol, 43.6 g | [H-].[Na+]
reactant | isobutyric aldehyde | 1.00 mol, 72.1 g | CC(C)C=O | C4H8O
reactant | AcOH | 60 ml | CC(=O)O | C2H4O2
solvent | dimethoxyethane | 150 ml | C(OC)COC | C4H10O2
solvent | DME | 600 ml | C(OC)COC | C4H10O2
product | 2,4-dimethylpent-2-enoic acid ethyl ester | 117 g, 75% | C(C)OC(C(=CC(C)C)C)=O | C9H16O2
